US05567856
Synthesis of Bis(3,5-difluorophenyl)phosphine
Bis(3,5-difluorophenyl)phosphinous acid (4.78 g=0.0174 mole) was placed in a 50 mL round bottom flask equipped with a magnetic stirring bar and a condenser with a nitrogen inlet tube. To this was added phenylsilane (1.54 g=0.014 mole). With stirring, the reaction was heated to 130° C. for three hours. As the temperature rose, the mixture became homogeneous and remained as such. After three hours, the reaction mixture was distilled, collecting the fraction boiling at 128°-138° C. at 0.05 mm Hg. The yield of bis(3,5-difluorophenyl)phosphine was 2.45 g (54%). The 31P absorption is at -37 ppm (relative to external H3PO4).

reactant | Bis(3,5-difluorophenyl)phosphinous acid | 0.0174 mole, 4.78 g | FC=1C=C(C=C(C1)F)P(O)C1=CC(=CC(=C1)F)F | C12H7F4OP
reactant | phenylsilane | 0.014 mole, 1.54 g | C1(=CC=CC=C1)[SiH3] | C6H8Si
product | Bis(3,5-difluorophenyl)phosphine | FC=1C=C(C=C(C1)F)PC1=CC(=CC(=C1)F)F | C12H7F4P
